US07179804B2
5-(2-chloro-phenyl)-3-(tetrahydro-pyran-2-yloxymethyl)-isoxazole-4-carboxylic acid methoxy-N-methyl-amide
Add 2M iso-propylmagnesium chloride (717 mL, 1.4 mol) to a −10° C. solution of 5-(2-chloro-phenyl)-3-(tetrahydro-pyran-2-yloxymethyl)-isoxazole-4-carboxylic acid ethyl ester (175 g, 478 mmol) and N,O-dimethylhydroxylamine hydrochloride (56 g, 574 mmol) in THF (2 L). Stir the reaction for 45 min. and then slowly quench with a 1:1 mixture of sat. NH4Cl and water (750 mL). Extract the mixture with EtOAc (3×500 mL). Wash the organic phase with brine (1000 mL), dry over Na2SO4, filter, and concentrate under reduced pressure. Purification by flash chromatography (silica gel, 7:3 hexanes/EtOAc) gives the title compound (27 g, 52%). MS (m/e): 381 (M+H)+; m.p.=51–56° C.; 1H NMR (300 MHz, CDCl3) δ7.32–7.60 (m, 4H), 5.00 (d, J=14 Hz, 1H), 4.78–4.81 (m, 1H), 4.73 (d, J=14 Hz, 1H), 3.85–3.98 (m, 1H), 3.52–3.61 (m, 1H), 3.40 (s, 3H), 3.10–3.29 (m, 3H), 1.50–1.82 (m, 6H); HPLC >99%; TLC Rf=0.41 (1:1 Hexanes/EtOAc).

reactant | iso-propylmagnesium chloride | 1.4 mol, 2M, 717 mL | C(C)(C)[Mg]Cl
reactant | 5-(2-chloro-phenyl)-3-(tetrahydro-pyran-2-yloxymethyl)-isoxazole-4-carboxylic acid ethyl ester | 478 mmol, 175 g | C(C)OC(=O)C=1C(=NOC1C1=C(C=CC=C1)Cl)COC1OCCCC1 | C18H20ClNO5
reactant | N,O-dimethylhydroxylamine hydrochloride | 574 mmol, 56 g | Cl.CNOC
solvent | THF | 2 L | C1CCOC1 | C4H8O
product | 5-(2-chloro-phenyl)-3-(tetrahydro-pyran-2-yloxymethyl)-isoxazole-4-carboxylic acid methoxy-N-methyl-amide | 27 g, 52% | CON(C(=O)C=1C(=NOC1C1=C(C=CC=C1)Cl)COC1OCCCC1)C | C18H21ClN2O5
